US04810713
4-[3-[4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]propoxy]benzonitrile
Following the procedure of Example 1, [α,α-bis(p-fluorophenyl)]-4-piperidinemethanol and 4-(3-chloropropoxy)benzonitrile were reacted using potassium iodide as catalyst to give the white title compound (recrystallizing from isopropyl alcohol-isopropyl ether) in 30% yield, m.p. 107°-108° C.

reactant | [α,α-bis(p-fluorophenyl)]-4-piperidinemethanol | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2NO
reactant | 4-(3-chloropropoxy)benzonitrile | ClCCCOC1=CC=C(C#N)C=C1 | C10H10ClNO
catalyst | potassium iodide | [I-].[K+]
product | 4-[3-[4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]propoxy]benzonitrile | 30% yield | FC1=CC=C(C=C1)C(C1CCN(CC1)CCCOC1=CC=C(C#N)C=C1)(O)C1=CC=C(C=C1)F | C28H28F2N2O2
